US07109229B2
(b) Methyl [1-(3-hydroxypropyl)-1H-indol-3-yl]oxoacetate
To a solution of 1-[3-(tert-butyldimethylsilyloxy) propyl]-1H-indole (4.99 g, 17.2 mmol) in diethyl ether (20 mL) at 4° C. was added a 2.0 M solution of oxalyl chloride in methylene chloride (9.5 mL, 19.0 mmol). The resulting solution was allowed to warm to room temperature. After 2 h, the solution was cooled to −78° C. To this solution was added a 25% (w/w) solution of sodium methoxide in methanol (8.7 mL, 38.0 mmol). The resulting mixture was allowed to warm to room temperature and stirred for 3 h. The reaction was quenched with water (10 mL) and poured into EtOAc (100 mL). The aqueous layer was extracted with EtOAc (20 mL). The combined organic layers were washed with saturated aq NH4Cl (100 mL) and brine (100 mL), dried (MgSO4), filtered, and concentrated. Flash chromatography (SiO2, 20% to 80% EtOAc/hexanes) gave the title compound (3.24 g, 71%) as a white solid. 1H NMR (300 MHz, CDCl3) 8.42 (m, 2H), 7.47 (m, 1H), 7.36 (m, 2H), 4.38 (m, 2H), 3.94 (s, 3H), 3.67 (m, 2H), 2.25 (m, 2H), 1.50 (m, 1H). MS (atmospheric pressure chemical ionization, m/z) 262 (M++1).

reactant | 1-[3-(tert-butyldimethylsilyloxy) propyl]-1H-indole | 17.2 mmol, 4.99 g | [Si](C)(C)(C(C)(C)C)OCCCN1C=CC2=CC=CC=C12 | C17H27NOSi
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 19.0 mmol, 9.5 mL | C(Cl)Cl | CH2Cl2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 38.0 mmol, 8.7 mL | CO | CH4O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | Methyl [1-(3-hydroxypropyl)-1H-indol-3-yl]oxoacetate | 3.24 g, 71% | OCCCN1C=C(C2=CC=CC=C12)C(C(=O)OC)=O | C14H15NO4
